US05438052
3-Aminopyrazole (33.2 g) and 110 g of ethyl 3,4-dimethoxybenzoylacetate are stirred in 500 ml of glacial acetic acid for 6 hours at 80° C. After cooling the crystallized-out product is filtered off under suction, washed with diethyl ether and dried. There are obtained 45 g of 5-(3,4-dimethoxyphenyl)pyrazolo[1,5-a]pyrimidin-7-ol of m.p. 268°-270° C.

reactant | 3-Aminopyrazole | 33.2 g | NC1=NNC=C1 | C3H5N3
reactant | ethyl 3,4-dimethoxybenzoylacetate | 110 g | COC=1C=C(C(=O)CC(=O)OCC)C=CC1OC | C13H16O5
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 5-(3,4-dimethoxyphenyl)pyrazolo[1,5-a]pyrimidin-7-ol | 45 g | COC=1C=C(C=CC1OC)C1=NC=2N(C(=C1)O)N=CC2 | C14H13N3O3
